US07598417B2
6-Bromo-indan-1-ylamine:
The title indanamine was generated from 6-bromo-1-indanone (2.00 g, 9.50 mmol), NaBH3CN (4.20 g, 66.84 mmol) and NH4OAc (22.00 g, 0.29 mol) according to the protocols as outlined in general procedure C. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ 1.59-1.73 (m, 3H), 2.44-2.56 (m, 1H), 2.70-2.82 (m, 1H), 2.84-2.98 (m, 1H), 4.29-4.40 (m, 1H), 6.98-7.18 (m, 1H), 7.26-7.38 (m, 1H), 7.4 (s, 1H).

reactant | indanamine | C1(CCC2=CC=CC=C12)N | C9H11N
reactant | 6-bromo-1-indanone | 9.50 mmol, 2.00 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | NaBH3CN | 66.84 mmol, 4.20 g | [BH3-]C#N.[Na+]
product | 6-Bromo-indan-1-ylamine | BrC1=CC=C2CCC(C2=C1)N | C9H10BrN
